US08003647B2
4-(5-Bromo-3cyanoindol-1yl)benzoic acid ethyl ester
To a solution of 5-bromo-3-cyanoindole (2.0 g) in N,N-dimethylformamide (50 mL) were added cesium carbonate (7.4 g) and 4-fluorobenzoic acid ethyl ester (3.0 g), and this mixture was stirred at 80° C. for 48 hours. This reaction mixture was poured into water, and the precipitated solid was collected by filtration. This solid was washed with water, dried under reduced pressure at 50° C. to give the title compound (1.8 g).

reactant | 5-bromo-3-cyanoindole | 2.0 g | BrC=1C=C2C(=CNC2=CC1)C#N | C9H5BrN2
reactant | cesium carbonate | 7.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-fluorobenzoic acid ethyl ester | 3.0 g | C(C)OC(C1=CC=C(C=C1)F)=O | C9H9FO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-(5-Bromo-3cyanoindol-1yl)benzoic acid ethyl ester | 1.8 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=CC=C12)Br)C#N)=O | C18H13BrN2O2
